US05945434
1-n-Butyl-4-piperidone
To a suspension of 4-piperidone hydrochloride monohydrate (20.6 g) and n-butylamine (25.0 g) in methylene chloride (300 ml) was added triethylamine (63 ml), and the mixture was stirred at room temperature for 12 hours. Methanol was further added to the reaction solution, and the solution was made uniform. To the solution were added water (7 ml) and anhydrous potassium carbonate (21.1 g), and the mixture was stirred for 30 minutes. The reaction solution was filtered off with Celite, and then the solvent was distilled off under reduced pressure. The residue obtained was purified by silica gel column chromatography (chloroform:methanol=10:1) to give the title compound (13.0 g) as a yellow oily substance. Yield=62%.

reactant | 4-piperidone hydrochloride monohydrate | 20.6 g | O.Cl.N1CCC(CC1)=O
reactant | n-butylamine | 25.0 g | C(CCC)N | C4H11N
reactant | triethylamine | 63 ml | C(C)N(CC)CC | C6H15N
reactant | potassium carbonate | 21.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | water | 7 ml | O | H2O
solvent | Methanol | CO | CH4O
product | 1-n-Butyl-4-piperidone | 13.0 g, Yield=62% | C(CCC)N1CCC(CC1)=O | C9H17NO
